US08895777B2
Preparation of 4-(2-methylbenzyloxy)butyric acid (Compound 3)
A suspension of 2-methylphenol (16.22 g, 0.15 mol), ethyl 4-bromobutanoate (33.80 g, 0.165 mol), and potassium carbonate (24.88 g, 0.18 mol) in 500 mL of 2-butanone was heated at reflux under nitrogen for 5 hours An additional 3 g of ethyl 4-bromobutanoate was added, and the reflux was continued for an additional 25 h. The reaction was allowed to cool to room temperature. Water and ethyl acetate were added. The organic product was extracted into the organic layer. The organic layer was separated and washed with water and brine. It was concentrated in vacuo to yield an oil. 200 mL of water and 150 mL of a 2N aqueous solution of NaOH was added to the oil. The mixture was stirred at room temperature overnight, and then heated at reflux for an hour. The mixture was cooled to room temperature and ice was added to chill the mixture to about 0° C. Slow addition of a solution of 2N hydrochloric acid solution (150 ml) caused an immediate precipitation. The resulting solid was collected by filtration, washed successively with water and with heptane. Drying in vacuo provided 22.18 g (76%) of the title compound as a white solid. Mp: 79-80° C. HPLC Rt 4.96 min.; 1H NMR (DMSO d6, 300 MHz) δ: 1.97 (m, 2H), 2.15 (s, 3H), 2.42 (t, 2H), 3.97 (t 2H), 6.82 (t, 1H), 6.88 (d, 1H), 7.10-7.16 (m, 2H), 12.20 (s, 1H). Anal. Calcd for C11H14O3: C, 68.02; H, 7.27. Found: C, 68.04; H, 7.15.

reactant | 2-methylphenol | 0.15 mol, 16.22 g | CC1=C(C=CC=C1)O | C7H8O
reactant | ethyl 4-bromobutanoate | 0.165 mol, 33.80 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium carbonate | 0.18 mol, 24.88 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 4-bromobutanoate | 3 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | NaOH | [OH-].[Na+]
reactant | hydrochloric acid | 2N, 150 ml | Cl | ClH
solvent | 2-butanone | 500 mL | CC(CC)=O | C4H8O
solvent | water | 200 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-methylbenzyloxy)butyric acid | 22.18 g, 76% | CC1=C(COCCCC(=O)O)C=CC=C1 | C12H16O3
